US08030334B2
To 2-pyridin-3-yl-1H-indole-3-carbonitrile (1.0 g, 4.56 mmol) in DMF (17 mL) is added 60% sodium hydride in mineral oil (547 mg, 13.68 mmol) and the suspension is stirred for 30 min. Iodomethane (971 mg, 6.84 mmol) is then added to the reaction mixture and stirred at ambient temperature for 1 h. Aqueous NaHCO3 (3 mL) is added and the mixture is concentrated in vacuo. The residue is purified by purified by silica gel flash chromatography (dichloromethane-methanol gradient) to give 1-methyl-2-pyridin-3-yl-1H-indole-3-carbonitrile as a white solid. 1H NMR (400 MHz, MeOD) δ ppm 3.83 (s, 3H), 7.35 (t, J=7.5 Hz, 1H), 7.40-7.46 (m, 1H), 7.64 (d, J=8.3 Hz, 1H), 7.67-7.74 (m, 2H), 8.16 (dt, J=8.0, 2.0, 1.9 Hz, 1H), 8.76 (dd, J=5.1, 1.5 Hz, 1H), 8.86 (d, J=1.5 Hz, 1H). HRMS (ESI) m/z 234.1029 [(M+H)+ Calcd for C15H12N3: 234.1031].

reactant | 2-pyridin-3-yl-1H-indole-3-carbonitrile | 4.56 mmol, 1.0 g | N1=CC(=CC=C1)C=1NC2=CC=CC=C2C1C#N | C14H9N3
reactant | sodium hydride | [H-].[Na+]
reactant | Iodomethane | 6.84 mmol, 971 mg | IC | CH3I
reactant | NaHCO3 | 3 mL | C(=O)(O)[O-].[Na+]
solvent | DMF | 17 mL | CN(C)C=O | C3H7NO
product | 1-methyl-2-pyridin-3-yl-1H-indole-3-carbonitrile | CN1C(=C(C2=CC=CC=C12)C#N)C=1C=NC=CC1 | C15H11N3
